US05591862
A mixture of 3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propyl bromide (1.5 g), powdered potassium cyanide (1.52 g) and N,N-dimethylformamide (30 ml) was stirred for 3 hours at 80° C. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), which was then concentrated to give 4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]butyronitrile (1.2 g, 92%). Recrystallization of the product from ethyl acetate--hexane gave colorless needles, m.p.73°-74° C.

reactant | 3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propyl bromide | 1.5 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCCBr | C20H20BrNO2
reactant | potassium cyanide | 1.52 g | [C-]#N.[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]butyronitrile | 1.2 g, 92% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCCC#N | C21H20N2O2
